US07393569B2
Acrylic acid chloride (74.3 g) was dropped for 10 minutes to a mixture of (4-(6-hydroxyhexyloxy)phenyl)propionic acid (200 g), N,N-dimethylaniline (100 g), BHT (0.3 g), and dioxane (1,000 mL). After stirring at 60° C. for 5 hours, the reaction mixture was poured into water and stirred with addition of ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by distillation from the ethyl acetate layer to obtain solids. The solids were dissolved in toluene and poured into plenty of heptane and re-precipitated to obtain (4-(6-acryloyloxyhexyloxy)phenyl)propionic acid (AK2: 213 g). Melting point: 64° C. to 68° C.

reactant | Acrylic acid chloride | 74.3 g | C(C=C)(=O)Cl | C3H3ClO
reactant | (4-(6-hydroxyhexyloxy)phenyl)propionic acid | 200 g | OCCCCCCOC1=CC=C(C=C1)C(C(=O)O)C | C15H22O4
reactant | N,N-dimethylaniline | 100 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | dioxane | 1,000 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (4-(6-acryloyloxyhexyloxy)phenyl)propionic acid | 213 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(C(=O)O)C | C18H24O5
